US04550118
Ethyl 4-hydroxy-3-nitrobenzoate (32 g) prepared according to the method described in J. Org. Chem., vol. 26, p. 2223 (1961) was subjected to reduction under increased pressure at 70 atm in the presence of a Raney Nickel catalyst in absolute ethanol (200 ml). The product was then caused to react with chloroacetyl chloride, and was subsequently subjected to ring closure with phosphorous oxychloride to yield 2-chloromethyl-5-ethoxycarbonylbenzoxazole (27.3 g). The chloromethyl compound (10 g) was caused to react with dimethylamine to yield 2-dimethylaminomethyl-5-ethoxycarbonylbenzoxazole (6 g), which was subsequently subjected to reduction with lithium aluminium hydride in anhydrous tetrahydrofuran (60 ml) thereby to obtain 2-dimethylaminomethyl-5-hydroxymethylbenzoxazole (2 g).

reactant | Ethyl 4-hydroxy-3-nitrobenzoate | 32 g | OC1=C(C=C(C(=O)OCC)C=C1)[N+](=O)[O-] | C9H9NO5
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
catalyst | Raney Nickel | [Ni] | Ni
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-chloromethyl-5-ethoxycarbonylbenzoxazole | 27.3 g | ClCC=1OC2=C(N1)C=C(C=C2)C(=O)OCC | C11H10ClNO3
